US09290490B2
To a solution of cis-4-{hydroxy[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methyl}cyclohexanecarboxylic acid (24 mg, 0.049 mmol), EDC (19 mg, 0.097 mmol), HOBt (13 mg, 0.097 mmol) and diisopropylethyl amine (51 uL, 0.292 mmol) in DMF (1 mL) was added ammonium chloride (7.8 mg, 0.15 mmol) and the mixture was stirred at room temperature for 16 h. The solution was then diluted with water and extracted with ethyl acetate (3×). The organic layers were combined, dried with magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography to afford cis-4-{hydroxy[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methyl}cyclohexanecarboxamide as a white solid. MS ESI calc'd. for C23H25F3N5O2S [M+H]+ 492. found 492. 1H NMR (500 MHz, DMSO-d6) δ 10.25 (s, 1H), 8.83 (d, J=4.9, 1H), 7.96 (s, 2H), 7.45 (s, 1H), 7.27 (d, J=4.9, 1H), 7.16 (s, 1H), 7.13 (s, 1H), 6.68 (s, 1H), 6.14 (d, J=4.9, 1H), 4.76-4.56 (m, 1H), 3.15 (d, J=5.2, 1H), 2.31 (s, 3H), 2.24 (s, 1H), 1.86 (d, J=5.9, 2H), 1.73 (s, 1H), 1.67 (d, J=8.6, 1H), 1.49-1.31 (m, 4H). rhSyk=+++

reactant | cis-4-{hydroxy[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methyl}cyclohexanecarboxylic acid | 0.049 mmol, 24 mg | OC([C@H]1CC[C@H](CC1)C(=O)O)C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C | C23H23F3N4O3S
reactant | EDC | 0.097 mmol, 19 mg
reactant | HOBt | 0.097 mmol, 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethyl amine | 0.292 mmol, 51 uL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 0.15 mmol, 7.8 mg | [Cl-].[NH4+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | cis-4-{hydroxy[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]methyl}cyclohexanecarboxamide | OC([C@H]1CC[C@H](CC1)C(=O)N)C=1SC(=CN1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C | C23H24F3N5O2S
